Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Latex / Albay Honey Bee Venom / Peanut / Tree nuts / Augmentin
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ G7P4 ___ s/p SVD on ___ (IOL gHTN).
Her delivery and postpartum course were uncomplicated and she 
was
discharged to home with no additional medications. 

She presents today with concern for fever that began in the
afternoon. She also reports a period of time today in which she
passed two clots, one the size of an orange, requiring her to
change her pad every 30  minutes. This has since subsided. She
denies lightheadedness, dizziness or shortness of breath. She
reports back pain that is constant and primarily in her lower
back that radiates towards the front of her abdomen. She denies
headache, nasal congestion, sore throat, cough, difficulty
breathing, red or tender breasts, abdominal pain, diarrhea,
constipation, calf pain, dysuria and abnormal vaginal discharge.

She does describe some right ear pain that she noticed today. 
She
also denies any recent sick contacts. 

 
Past Medical History:
PNC:  
- Labs: AB pos/Abs neg/HIV neg/RPR NR/RI/HbsAg neg/GBS pos
- FFS: Wnl
- GLT: wnl
- Induction for GHTN on ___ via pitocin

OBHx:
- SVD x 4
- SAB 

GYNHx: 
- denies abnormal pap, STIs, GYN surgeries, 

PMH: asthma, Reiter's syndrome, scoliosis,  migraines, Lupus

PSH: wisdom teeth extraction, lsc appy

 
Social History:
denies t/e/d

 
Physical Exam:
VS: Afebrile, VSS 
Neuro/Psych: NAD, Oriented x3, Affect Normal 
Heart: RRR
Lungs: CTA b/l
Abdomen: soft, appropriately tender, fundus firm, no fundal 
tenderness
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 

 
Pertinent Results:
___ 06:44PM BLOOD WBC-15.3*# RBC-4.68 Hgb-11.8 Hct-36.8 
MCV-79* MCH-25.2* MCHC-32.1 RDW-14.4 RDWSD-41.0 Plt ___
___ 06:44PM BLOOD Neuts-89.4* Lymphs-5.5* Monos-3.9* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-13.72* AbsLymp-0.84* 
AbsMono-0.60 AbsEos-0.03* AbsBaso-0.04
___ 06:44PM BLOOD Plt ___
___ 06:44PM URINE Color-Straw Appear-Clear Sp ___
___ 06:44PM URINE Blood-LG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 06:44PM URINE RBC-1 WBC-22* Bacteri-FEW Yeast-NONE 
Epi-<1 TransE-<1
___ 06:44PM URINE Mucous-RARE

___ 6:44 pm BLOOD CULTURE      Source: Venipuncture. 

   Blood Culture, Routine (Pending): 

___ 6:44 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 6:44 pm BLOOD CULTURE      Source: Venipuncture. 

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
On ___, Ms. ___ was re-admitted to the postpartum service 
on ___ s/p SVD with fever of unknown origin. She had a benign 
breast, pulmonary, and pelvic exam, low suspicion for mastitis, 
pneumonia, or wound infection. She was not tachycardic and was 
in no respiratory distress with no ___ edema, negative ___ 
sign, low suspicion for VTE. Her lab work was notable for WBC of 
15.3 with a left shift, no bandemia. UA was negative for UTI. 
UCX contaminated. Blood culture pending at the time of 
discharge. 

She was treated empirically with gentamicin and clindamycin for 
presumed endometritis for 24 hours afebrile. On HD#1, she had 
another temperature to 102.9 and her ABX course was broadened to 
include ampicillin. She remained afebrile thereafter for 24 
hours. She was then discharged home in stable condition on HD#2 
with follow up scheduled. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fever, presumbed endometritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
no sex or tampons for 6 weeks
 
Followup Instructions:
___